### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): takeUntil properties

### PR DESCRIPTION
**Pull request by pimotte**
Adds various results on takeUntil. 
In preparation for a proof of Tutte's theorem. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

- [x] depends on: #21981

[Zulip thread on Tutte's](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 1]
```diff
@@ -264,6 +264,17 @@ lemma isCycle_reverse {p : G.Walk u u} : p.reverse.IsCycle ↔ p.IsCycle where
   mp h := by simpa using h.reverse
   mpr := .reverse
 
+lemma IsCycle.isPath_of_append_right {p : G.Walk u v} {q : G.Walk v u} (h : u ≠ v)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:267]:
```suggestion
lemma IsCycle.isPath_of_append_right {p : G.Walk u v} {q : G.Walk v u} (h : ¬ p.IsNil)
```
is enough, right?

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 2]
```diff
@@ -402,6 +413,14 @@ protected theorem IsCycle.rotate {u v : V} {c : G.Walk v v} (hc : c.IsCycle) (h
   rw [List.IsRotated.nodup_iff (support_rotate _ _)]
   exact hc.support_nodup
 
+lemma IsCycle.isPath_of_takeUntil {c : G.Walk v v} (hc : c.IsCycle) (h : w ∈ c.support) :
+(c.takeUntil w h).IsPath := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:417]:
```suggestion
    (c.takeUntil w h).IsPath := by
```

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 3]
```diff
@@ -402,6 +413,14 @@ protected theorem IsCycle.rotate {u v : V} {c : G.Walk v v} (hc : c.IsCycle) (h
   rw [List.IsRotated.nodup_iff (support_rotate _ _)]
   exact hc.support_nodup
 
+lemma IsCycle.isPath_of_takeUntil {c : G.Walk v v} (hc : c.IsCycle) (h : w ∈ c.support) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:416]:
```suggestion
lemma IsCycle.isPath_takeUntil {c : G.Walk v v} (hc : c.IsCycle) (h : w ∈ c.support) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 4]
```diff
@@ -1086,6 +1109,37 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+      simp_all
+    simp only [support_cons, List.mem_cons, huw, false_or] at hw
+    by_cases hn0 : n = 0
+    · aesop
+    simp only [cons_takeUntil hw ((Ne.eq_def _ _).mpr huw).symm, length_cons,
+      getVert_cons _ _ hn0] at hn ⊢
+    apply q.getVert_takeUntil hw
+    omega
+
+lemma takeUntil_snd (p : G.Walk u v) (hsu : w ≠ u) (h : w ∈ p.support) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1128]:
```suggestion
lemma snd_takeUntil {p : G.Walk u v} (hsu : w ≠ u) (h : w ∈ p.support) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 5]
```diff
@@ -1086,6 +1109,37 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+    (p.takeUntil w h).snd = p.snd := by
+  apply p.getVert_takeUntil h
+  by_contra! hc
+  simp only [Nat.lt_one_iff, ← nil_iff_length_eq, nil_takeUntil_iff] at hc
+  exact hsu hc.symm
+
+lemma length_takeUntil_lt {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) (huw : u ≠ w) :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1135]:
```suggestion
lemma length_takeUntil_lt {u v w : V} {p : G.Walk v w} (h : u ∈ p.support) (huw : u ≠ w) :
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 6]
```diff
@@ -1086,6 +1109,37 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
   rw [length_append, add_comm] at this
   exact Nat.le.intro this
 
+lemma getVert_takeUntil {u v : V} {n : ℕ} (p : G.Walk u v) (hw : w ∈ p.support)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1112]:
```suggestion
lemma getVert_takeUntil {u v : V} {n : ℕ} {p : G.Walk u v} (hw : w ∈ p.support)
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 7]
```diff
@@ -964,6 +964,29 @@ def takeUntil {v w : V} : ∀ (p : G.Walk v w) (u : V), u ∈ p.support → G.Wa
...
         · assumption)
 
+lemma cons_takeUntil {v' : V} {p : G.Walk v' v} (hwp : w ∈ p.support) (h : u ≠ w)
+    (hadj : G.Adj u v') (hwp' : w ∈ (p.cons hadj).support := List.mem_of_mem_tail hwp) :
+    (p.cons hadj).takeUntil w hwp' = (p.takeUntil w hwp).cons hadj := by
+  simp [Walk.takeUntil, h]
+
+@[simp]
+lemma takeUntil_first (p : G.Walk u v) (hup : u ∈ p.support) :
+    p.takeUntil u hup = Walk.nil := by cases p <;> simp [Walk.takeUntil]
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:974]:
```suggestion
lemma takeUntil_first (p : G.Walk u v) :
    p.takeUntil u some_lemma_here = .nil := by cases p <;> simp [Walk.takeUntil]
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 8]
```diff
@@ -238,6 +238,18 @@ theorem toSubgraph_adj_iff {u v u' v'} (w : G.Walk u v) :
     rw [← Subgraph.mem_edgeSet, ← hi.1, Subgraph.mem_edgeSet]
     exact toSubgraph_adj_getVert _ hi.2
 
+lemma mem_support_of_adj_toSubgraph {u v u' v' : V} (p : G.Walk u v) (hp : p.toSubgraph.Adj u' v') :
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:241]:
```suggestion
lemma mem_support_of_adj_toSubgraph {u v u' v' : V} {p : G.Walk u v} (hp : p.toSubgraph.Adj u' v') :
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 9]
```diff
@@ -287,6 +299,18 @@ lemma ncard_neighborSet_toSubgraph_eq_two {u v} {p : G.Walk u u} (hpc : p.IsCycl
   rw [← hi.1, hpc.neighborSet_toSubgraph_internal he.1 (by omega)]
   exact Set.ncard_pair (hpc.getVert_sub_one_neq_getVert_add_one (by omega))
 
+lemma not_adj_toSubgraph_takeUntil_takeUntil [DecidableEq V] {u v w : V} (p : G.Walk u u)
+    (hp : p.IsCycle) (hv : v ∈ p.support) (hw : w ∈ (p.takeUntil v hv).support) :
+    ¬((p.takeUntil v hv).takeUntil w hw).toSubgraph.Adj w v := by
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:304]: No, this is basically "the path you get until you encounter v or w, whichever comes first"

[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:304]: Really? Unless I'm misunderstanding, `hw` says you re encountering `w` before `v`

[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:304]: Oh, yeah, that's right. That might even simplify the place where I'm using this, so I'll go back there and reevaluate if this is needed/the right formulation.

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 10]
```diff
@@ -1086,6 +1120,57 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+  simp only [Nat.lt_one_iff, ← nil_iff_length_eq, nil_takeUntil_iff] at hc
+  exact hsu hc.symm
+
+lemma length_takeUntil_lt {u v w : V} {p : G.Walk v w} (h : u ∈ p.support) (huw : u ≠ w) :
+    (p.takeUntil u h).length < p.length := by
+  rw [(p.length_takeUntil_le h).lt_iff_ne]
+  exact fun hl ↦ huw (by simpa using (hl ▸ getVert_takeUntil h (by rfl) :
+    (p.takeUntil u h).getVert (p.takeUntil u h).length = p.getVert p.length))
+
+lemma takeUntil_takeUntil {p : G.Walk u v} (w x : V) (hw : w ∈ p.support)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1152]: Similarly,
```suggestion
lemma takeUntil_takeUntil (p : G.Walk u v) (w x : V) (hw : w ∈ p.support)
```

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 11]
```diff
@@ -1086,6 +1120,57 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+
+lemma snd_takeUntil {p : G.Walk u v} (hsu : w ≠ u) (h : w ∈ p.support) :
+    (p.takeUntil w h).snd = p.snd := by
+  apply p.getVert_takeUntil h
+  by_contra! hc
+  simp only [Nat.lt_one_iff, ← nil_iff_length_eq, nil_takeUntil_iff] at hc
+  exact hsu hc.symm
+
+lemma length_takeUntil_lt {u v w : V} {p : G.Walk v w} (h : u ∈ p.support) (huw : u ≠ w) :
+    (p.takeUntil u h).length < p.length := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:1147]: This one stays as is because it's not a rewriting lemma

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 12]
```diff
@@ -806,6 +806,14 @@ lemma not_nil_iff {p : G.Walk v w} :
     ¬ p.Nil ↔ ∃ (u : V) (h : G.Adj v u) (q : G.Walk u w), p = cons h q := by
   cases p <;> simp [*]
 
+@[simp]
+lemma nil_append_iff {p : G.Walk u v} {q : G.Walk v w} : (p.append q).Nil ↔ p.Nil ∧ q.Nil := by
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean:810]: (Not adopted, conflicts with `nil.append p = p` lemma.)

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 13]
```diff
@@ -1086,6 +1120,57 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+      simp_all
+    simp only [support_cons, List.mem_cons, huw, false_or] at hw
+    by_cases hn0 : n = 0
+    · aesop
+    simp only [cons_takeUntil hw ((Ne.eq_def _ _).mpr huw).symm, length_cons,
+      getVert_cons _ _ hn0] at hn ⊢
+    apply q.getVert_takeUntil hw
+    omega
+
+lemma snd_takeUntil {p : G.Walk u v} (hsu : w ≠ u) (h : w ∈ p.support) :
```
[the remark this answers is not in the document]
Comment (YaelDillies) [reply Mathlib/Combinatorics/SimpleGraph/Walk.lean]: It's partly documented (see the style guide), but it's still mostly in my head. Working on it 🛠️

File: Mathlib/Combinatorics/SimpleGraph/Walk.lean [hunk 14]
```diff
@@ -964,6 +978,29 @@ def takeUntil {v w : V} : ∀ (p : G.Walk v w) (u : V), u ∈ p.support → G.Wa
         · exact (hx rfl).elim
         · assumption)
 
+lemma cons_takeUntil {v' : V} {p : G.Walk v' v} (hwp : w ∈ p.support) (h : u ≠ w)
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Walk.lean:981]:
```suggestion
lemma takeUntil_cons {v' : V} {p : G.Walk v' v} (hwp : w ∈ p.support) (h : u ≠ w)
```

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean [hunk 15]
```diff
@@ -0,0 +1,294 @@
...
+section WalkDecomp
+
+variable [DecidableEq V]
+
+/-- Given a vertex in the support of a path, give the path up until (and including) that vertex. -/
+def takeUntil {v w : V} : ∀ (p : G.Walk v w) (u : V), u ∈ p.support → G.Walk v u
+  | nil, u, h => by rw [mem_support_nil_iff.mp h]
+  | cons r p, u, h =>
+    if hx : v = u then
+      by subst u; exact Walk.nil
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean:35]:
```suggestion
      hx \t Walk.nil
```

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 16]
```diff
@@ -3,9 +3,11 @@ Copyright (c) 2021 Kyle Miller. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Kyle Miller
 -/
+import Mathlib.Combinatorics.SimpleGraph.Connectivity.WalkDecomp
 import Mathlib.Combinatorics.SimpleGraph.Walk
 import Mathlib.Combinatorics.SimpleGraph.Subgraph
 
+
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Path.lean:10]:
```suggestion
```

**Review by YaelDillies — COMMENTED** [review]
Indeed it would be better if you could make the move in a quick preliminary PR

**Comment by pimotte** [comment]
> Indeed it would be better if you could make the move in a quick preliminary PR

Done: #21981

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean (hunk 15 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean]: Manually adopted:)

File: Mathlib/Combinatorics/SimpleGraph/Path.lean (hunk 16 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean]: Manually adopted:)

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 9 above)
[the remark this answers is not in the document]
Comment (ocfnash) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: @pimotte feel free to click the "Resolve conversation" button if you are confident that you have addressed a reviewer's suggestion. This makes subsequent review easier.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean [hunk 17]
```diff
@@ -162,6 +185,69 @@ theorem length_dropUntil_le {u v w : V} (p : G.Walk v w) (h : u ∈ p.support) :
...
+    simp only [takeUntil_first, support_nil, List.mem_singleton] at hx
+    subst hx
+    simp
+  | case3 a w' v' hadj q u' hu' hau' _ ih =>
+    rw [← Ne.eq_def] at hau'
+    simp only [support_cons, List.mem_cons, hau'.symm, false_or] at hu'
+    simp only [takeUntil_cons hu' hau' hadj, support_cons, List.mem_cons] at hx
+    by_cases hx' : x = a
+    · aesop
+    · simp [hx'] at hx
```
Comment (ocfnash) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/WalkDecomp.lean:232]: We should fix this non-terminal simp:
```suggestion
    · replace hx : x ∈ (q.takeUntil u' hu').support := by simpa [hx'] using hx
```

**Review by ocfnash — APPROVED** [review]
Thanks. One minor suggestion but otherwise LGTM

bors d+
